* test6 8 kHz CMOS input/output chopper switching sanity test
.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_cmos_chopper.spice
.param VDD=1.8 VCM=0.9 FCHOP=8k TCHOP=125u
VDD_SRC VDD18 0 {VDD}
* 2.5 us non-overlap around each half-period boundary.
VPHI PHI 0 PULSE(0 {VDD} 1.25u 20n 20n 60u {TCHOP})
VPHIB PHIB 0 PULSE(0 {VDD} 63.75u 20n 20n 60u {TCHOP})
BNPHI NPHI 0 V={VDD}-v(PHI)
BNPHIB NPHIB 0 V={VDD}-v(PHIB)
VSIGP SIGP 0 SIN({VCM} 0.5m 100)
VSIGN SIGN 0 SIN({VCM} 0.5m 100 0 0 180)
XCHIN SIGP SIGN CHP CHN PHI NPHI PHIB NPHIB VDD18 0 eeg_cmos_chopper
* Ideal 32 V/V differential core isolates switch verification from OTA settling.
BRAWP RAWP 0 V={VCM}+16*(v(CHP)-v(CHN))
BRAWN RAWN 0 V={VCM}-16*(v(CHP)-v(CHN))
XCHOUT RAWP RAWN OUTP OUTN PHI NPHI PHIB NPHIB VDD18 0 eeg_cmos_chopper
CLOADP OUTP 0 5p
CLOADN OUTN 0 5p
.control
set noaskquit
tran 0.1u 12m 2m
let vind=v(SIGP)-v(SIGN)
let vch=v(CHP)-v(CHN)
let voutd=v(OUTP)-v(OUTN)
meas tran vin_pp pp vind from=2m to=12m
meas tran vch_pp pp vch from=2m to=12m
meas tran vout_pp pp voutd from=2m to=12m
meas tran out_max max voutd from=2m to=12m
meas tran out_min min voutd from=2m to=12m
wrdata ../results/chopper_8k_sanity_tt.csv time vind vch voutd v(PHI) v(PHIB)
quit
.endc
.end
